US06207669B1
(4-Benzyloxy-phenyl)-(6-(5-(pyridin-3-ylaminomethyl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine
In an analogous manner to Example 1, 5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde and 3-aminopyridine were converted into the title compound; δH [2H6]-DMSO 10.42 (1H, b), 9.08 (1H, s), 8.69 (1H, s), 8.55 (1H, s), 8.09 (1H, d), 7.79 (1H, d), 7.70 (2H, d), 7.52−7.27 (5H, m), 7.16−6.99 (5H, m), 6.52 (2H, m), 5.11 (2H, s), 4.42 (2H, d); m/z 501 (M+1)+.

reactant | 5-(4-(4-Benzyloxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)C=O | C25H18N4O3
reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
product | (4-Benzyloxy-phenyl)-(6-(5-(pyridin-3-ylaminomethyl)-furan-2-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)CNC=2C=NC=CC2 | C30H24N6O2
